US06492383B1
In a sealed tube 2-bromo-7-chloro-thieno[3,2-b]pyridine (1.01 g, 4.08 mmol) was dissolved in 15 mL of dichloroethane and 15 mL of t-butylalcohol. 5-Amino-indole (540 mg, 4.08 mmol) was added, the tube was sealed, and the contents were heated at 85° C. for 36 hours. The solution was cooled and filtered, the solid washed with methylene chloride, and dried in vacuo to afford 1.96 g of crude product. A portion of the material (100 mg, 0.29 mmol) was coupled with benzeneboronic acid in a procedure analogous to example 2 to afford 37.1 mg (38%) of (1H-indol-5-yl)-(2-phenyl-thieno[3,2-b]pyridin-7-yl)-amine. 1H NMR (400 MHz, DMSO) d 11.1 (s, 1H), 8.69 (s, 1H), 8.15 (d, 1H), 7.78 (m, 3H), 7.41 (m, 6H), 6.98 (d, 1H), 6.53 (d, 1H), 6.41 (s, 1H); LC-MS: 342 (MH+); HPLC RT: 4.81.

reactant | 2-bromo-7-chloro-thieno[3,2-b]pyridine | 4.08 mmol, 1.01 g | BrC1=CC2=NC=CC(=C2S1)Cl | C7H3BrClNS
reactant | 5-Amino-indole | 4.08 mmol, 540 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | benzeneboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
solvent | t-butylalcohol | 15 mL | C(C)(C)(C)O | C4H10O
product | (1H-indol-5-yl)-(2-phenyl-thieno[3,2-b]pyridin-7-yl)-amine | 37.1 mg, 38% | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=CC=C2 | C21H15N3S
